US08119422B2
a) Synthesis of methyl 4-(tert-butyldimethylsilyloxy)-3-allyl-5-methylbenzoate
A solution of methyl 4-hydroxy-3-allyl-5-methylbenzoate (157 mg, 0.762 mmol) in dichloromethane (5 mL) was treated with triethylamine (0.21 mL, 2 equivalents) and tert-butyldimethylsilyl chloride (172 mg, 1.5 equivalents). The reaction was stirred at room temperature under a nitrogen atmosphere for 3 days by which time TLC analysis showed complete conversion. The reaction was diluted with ethyl acetate (30 mL) and washed with saturated aqueous ammonium chloride and saturated aqueous sodium bicarbonate. It was then dried over anhydrous magnesium sulfate, filtered and evaporated to dryness to afford the product as a brown oil. Yield=0.239 g (98%).

reactant | methyl 4-hydroxy-3-allyl-5-methylbenzoate | 0.762 mmol, 157 mg | OC1=C(C=C(C(=O)OC)C=C1C)CC=C | C12H14O3
reactant | triethylamine | 0.21 mL, 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 172 mg, 1.5 equivalents | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-(tert-butyldimethylsilyloxy)-3-allyl-5-methylbenzoate | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=O)OC)C=C1C)CC=C | C18H28O3Si
